US07772190B2
5.4 g (41.4 mmol) of N,N-diisopropylethylamine (Hünig's base) and 5.3 g (20.7 mmol) of bis(2-oxo-3-oxazolidinyl)-phosphonium acid chloride (BOP-Cl) are added at 0° C. to a solution of 5.0 g (18.8 mmol) of N-benzyl-N-methyl-L-alanyl-D-lactic acid and 1.6 g (20.7 mmol) of piperidine in 150 ml of methylene chloride, and the mixture is stirred at 0° C. for two hours and then at room temperature for 18 hours. The residual crude product is chromatographed on a silica gel column (silica gel 60—Merck, particle size: 0.04 to 0.063 mm) using the eluent cyclohexane:ethyl acetate (3:1). 3.5 g (55.8% of theory) of N-benzyl-N-methyl-L-alanyl-D-lactic acid piperidide are obtained.

reactant | N,N-diisopropylethylamine | 41.4 mmol, 5.4 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-benzyl-N-methyl-L-alanyl-D-lactic acid | 18.8 mmol, 5.0 g | C(C1=CC=CC=C1)N([C@@H](C)C(=O)[C@@](C(=O)O)(O)C)C | C14H19NO4
reactant | piperidine | 20.7 mmol, 1.6 g | N1CCCCC1 | C5H11N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-methyl-L-alanyl-D-lactic acid piperidide | 3.5 g, 55.8% | C(C1=CC=CC=C1)N([C@@H](C)C(=O)[C@@](C(=O)N1CCCCC1)(O)C)C | C19H28N2O3
